US05552404
N-Methylphenethylamine was coupled with 3-((αR)-α-((2S,5R)-4-allyl-2.5-dimethyl-1-piperazinyl)-3-(tert-butyldimethylsilyloxy)benzyl)benzoyl chloride, deprotected and purified by the methods described in Example 10 to give (+)-3-((αR)-α-((2S,5R)-4-allyl-2,5-dimethyl-1-piperazinyl)-3-hydroxybenzyl)-N-methyl-N-phenethylbenzamide as a light yellow powder. NMR (300 MHz, DMSO-d6, 80° C.): δ0.91 (d, J=5.5 Hz, 3H); 1.08 (d, J=6.3 Hz, 3H); 1.87 (dd, J1 =7.1 Hz, J2 =11.2 Hz, 1H); 2.09 (dd, J1 =7.1 Hz, J2 =11.0 Hz, 1H); 2.58 (d, J=11.3 Hz, 1H); 2.67 (m, 1H); 2.76 (dd, J1 =6.2 Hz, J2 =13.2 Hz, 1H); 2.77-2.87 (m, 4H); 2.89 (s, 3H); 3.18 (dd, J1 =5.5 Hz, J2 =14.2 Hz, 1H); 3.55 (br s, 2H); 4.97 (s, 1H); 5.10 (d, J=10.2 Hz, 1H); 5.16 (d, J=17.3 Hz, 1H); 5.74-5.89 (m, 1H); 6.65-6.13 (m, 3H); 7.07-7.41 (m, 9H); 7.43 (d, J=7.9 Hz, 1H); 9.07 (s,1H). Mass spectrum (CI--CH4) m/e: 498 (M+1, 88%), 344 (22%), 153 (100%. [α]D20 =+3.8° )ethanol, c=1.25). The free amine (0.232 g) was dissolved in ethanol and titrated with ethanolic hydrogen chloride to pH 3.9 followed by precipitation with diethyl ether from dichloromethane to give 0.205 g of the monohydrochloride salt as a hygroscopic light yellow powder. Calc. for C32H39N3O2HCl H2O: C, 69.61; H, 7.67; N, 7.61: Cl, 6.42. Found: C, 69.51: H, 7.73; N, 7.47: Cl, 6.52.

reactant | N-Methylphenethylamine | CNCCC1=CC=CC=C1 | C9H13N
reactant | 3-((αR)-α-((2S,5R)-4-allyl-2.5-dimethyl-1-piperazinyl)-3-(tert-butyldimethylsilyloxy)benzyl)benzoyl chloride | C(C=C)N1C[C@@H](N(C[C@H]1C)[C@@H](C1=CC(=CC=C1)O[Si](C)(C)C(C)(C)C)C=1C=C(C(=O)Cl)C=CC1)C | C29H41ClN2O2Si
product | (+)-3-((αR)-α-((2S,5R)-4-allyl-2,5-dimethyl-1-piperazinyl)-3-hydroxybenzyl)-N-methyl-N-phenethylbenzamide | C(C=C)N1C[C@@H](N(C[C@H]1C)[C@@H](C1=CC(=CC=C1)O)C=1C=C(C(=O)N(CCC2=CC=CC=C2)C)C=CC1)C | C32H39N3O2
